US08492405B2
To a mixture of ethyl 4-amino-1-ethyl-1H-pyrrole-2-carboxylate (7.1 g) and pyridine (50 mL) was added 2-thiophen-sulfonyl chloride (8.4 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. To a solution of the residue in N,N-dimethylformamide (50 mL) was slowly added sodium hydride (60%, oily, 1.7 g) at 0° C., and the mixture was stirred at room temperature for 30 min. Methyl iodide (2.7 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 1-ethyl-4-[methyl(2-thienylsulfonyl)amino]-1H-pyrrole-2-carboxylate (11.9 g, yield 88%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 4-amino-1-ethyl-1H-pyrrole-2-carboxylate | 7.1 g | NC=1C=C(N(C1)CC)C(=O)OCC | C9H14N2O2
reactant | 2-thiophen-sulfonyl chloride | 8.4 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 1-ethyl-4-[methyl(2-thienylsulfonyl)amino]-1H-pyrrole-2-carboxylate | 11.9 g, yield 88% | C(C)N1C(=CC(=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C14H18N2O4S2
